US07714126B2
(2-Ethoxy-ethyl)-methyl-(5-nitro-pyridin-2-yl)-amine (150 mg, 0.666 mmol) was hydrogenated as above and reacted with 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (171 mg, 0.666 mmol), Et3N (464 uL, 3.3 mmol) and BOP (309 mg. 0.699 mmol). Following work-up as above, the crude material was purified by flash chromatography to yield 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid {6-[(2-ethoxy-ethyl)-methyl-amino]-pyridin-3-yl}-amide as a yellow solid (194 mg). ES-MS calcd for C21H21F3N4O3 (m/e) 434.42, obsd 435.1 (M+H).

reactant | (2-Ethoxy-ethyl)-methyl-(5-nitro-pyridin-2-yl)-amine | 0.666 mmol, 150 mg | C(C)OCCN(C1=NC=C(C=C1)[N+](=O)[O-])C | C10H15N3O3
reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid | 0.666 mmol, 171 mg | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | Et3N | 3.3 mmol, 464 uL | CCN(CC)CC | C6H15N
reactant | BOP | 0.699 mmol, 309 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
product | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid {6-[(2-ethoxy-ethyl)-methyl-amino]-pyridin-3-yl}-amide | 194 mg | C(C)OCCN(C1=CC=C(C=N1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1)C | C21H21F3N4O3
